US07935699B2
A solution of 2-(3-chloro-4-methanesulfonyl-phenyl)-3-((R)-3,3-difluoro-cyclopentyl)-propionic acid (240 mg, 0.65 mmol) was dissolved in methylene chloride (10 mL) and N,N-dimethylformamide (one drop) and cooled to 0° C. To this solution was added dropwise a solution of oxalyl chloride in methylene chloride (2 M solution, 376 μL, 0.75 mmol) which produced gas evolution and was stirred at 0° C. for 15 min and then warmed to 25° C. and stirred for 1 h. After this time, the reaction was concentrated in vacuo to about 2 mL and then another portion of methylene chloride (˜2 mL) was added to produce a roughly 0.16 M solution of 2-(3-chloro-4-methanesulfonyl-phenyl)-3-((R)-3,3-difluoro-cyclopentyl)-propionyl chloride which was used.

reactant | 2-(3-chloro-4-methanesulfonyl-phenyl)-3-((R)-3,3-difluoro-cyclopentyl)-propionic acid | 0.65 mmol, 240 mg | ClC=1C=C(C=CC1S(=O)(=O)C)C(C(=O)O)C[C@@H]1CC(CC1)(F)F | C15H17ClF2O4S
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
catalyst | N,N-dimethylformamide | one drop | CN(C=O)C | C3H7NO
solvent | methylene chloride | 0.75 mmol, 2 M, 376 μL | C(Cl)Cl | CH2Cl2
product | 2-(3-chloro-4-methanesulfonyl-phenyl)-3-((R)-3,3-difluoro-cyclopentyl)-propionyl chloride | ClC=1C=C(C=CC1S(=O)(=O)C)C(C(=O)Cl)C[C@@H]1CC(CC1)(F)F | C15H16Cl2F2O3S
